US05344843
As in Example 15, (E)-3-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yl]-2-propen-1-ol (0.58 g) was reacted with 4-hydroxyphenylglyoxylic acid methyl ester (0.387 g) in the presence of diethyl azoclicarboxylate (0.448 g) and triphenylphosphine (0.68 g) in tetrahydrofuran (25 mL). The usual work up afforded 1.3 g of a crude mixture that was purified by flash chromatography over silica gel (130 g; ethyl acetate-hexane; 3:7) to furnish 0.55 g of (E)-4-[3-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid methyl ester as a oil.

reactant | (E)-3-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yl]-2-propen-1-ol | 0.58 g | FC1=CC=C(C=C1)C1=C(C(=CC=C1)C(C)C)/C=C/CO | C18H19FO
reactant | 4-hydroxyphenylglyoxylic acid methyl ester | 0.387 g | COC(C(=O)C1=CC=C(C=C1)O)=O | C9H8O4
reactant | triphenylphosphine | 0.68 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (E)-4-[3-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid methyl ester | 0.55 g | COC(C(C1=CC=C(C=C1)OC\C=C\C1=C(C=CC=C1C(C)C)C1=CC=C(C=C1)F)=O)=O | C27H25FO4
